US05290755
6-(4-Bromophenyl)-2-(4,6-dimethoxypyrimidin-2-yloxy)-1-(N,N-dimethylaminooxycarbonyl)-benzene (Example 2.004)
At 10° C., 0.30 g (0.01 mol) of sodium hydride (80% strength) is added to a solution of 3.35 g (10 mmol) of 3-(4-bromophenyl)-2-(N,N-dimethylaminooxycarbonyl)-phenol in 25 ml of dried dimethylformamide, and the mixture is stirred for 3 hours at 30° C. Subsequently, 2.18 g (0.01 mol) of 2-methylsulfonyl-4,6-dimethoxypyrimidine is added and the mixture stirred for 12 hours at room temperature. Working up in accordance with Example 4 gives a colorless solid.

reactant | sodium hydride | 0.01 mol, 0.30 g | [H-].[Na+]
reactant | 3-(4-bromophenyl)-2-(N,N-dimethylaminooxycarbonyl)-phenol | 10 mmol, 3.35 g | BrC1=CC=C(C=C1)C=1C(=C(C=CC1)O)C(=O)ON(C)C | C15H14BrNO3
reactant | 2-methylsulfonyl-4,6-dimethoxypyrimidine | 0.01 mol, 2.18 g | CS(=O)(=O)C1=NC(=CC(=N1)OC)OC | C7H10N2O4S
solvent | dimethylformamide | 25 ml | CN(C=O)C | C3H7NO
product | 6-(4-Bromophenyl)-2-(4,6-dimethoxypyrimidin-2-yloxy)-1-(N,N-dimethylaminooxycarbonyl)-benzene | BrC1=CC=C(C=C1)C1=CC=CC(=C1C(=O)ON(C)C)OC1=NC(=CC(=N1)OC)OC | C21H20BrN3O5
